US08012966B2
The stirred solution of 5-fluoro-6-amino-1,3-dihydro-indol-2-one (450 mg, 2.71 mmol) in 10 ml of tetrahydrofuran was added with piperidine (0.4 ml). The mixture was cooled to −40° C. in an acetone-dry ice bath and added with (S)-acetic acid 1-chlorocarbonyl-ethyl ester (423 mg, 2.71 mmol) in 10 ml of tetrahydrofuran dropwise. Upon the completion of the addition, the resulting mixture was stirred at the room temperature overnight until the precipitate was formed. The solid was filtered, washed with water and recrystallized from methanol to give acetic acid 1-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-ylcarbamoyl)-ethyl ester (750 mg, 99%) as a white solid.

reactant | 5-fluoro-6-amino-1,3-dihydro-indol-2-one | 2.71 mmol, 450 mg | FC=1C=C2CC(NC2=CC1N)=O | C8H7FN2O
reactant | piperidine | 0.4 ml | N1CCCCC1 | C5H11N
reactant | (S)-acetic acid 1-chlorocarbonyl-ethyl ester | 2.71 mmol, 423 mg | ClC(=O)[C@H](C)OC(C)=O | C5H7ClO3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | acetic acid 1-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-ylcarbamoyl)-ethyl ester | 750 mg, 99% | FC=1C=C2CC(NC2=CC1NC(=O)C(C)OC(C)=O)=O | C13H13FN2O4
